US08629160B2
A mixture of thiophen-3-ylboronic acid (339 mg, 2.65 mmol), 2-oxoacetic acid hydrate (244 mg, 2.65 mmol), and 4-methoxyaniline (326 mg, 2.65 mmol) was heated under microwave irradiation at 100° C. for 1 hour. The precipitate was recovered and washed sequentially with acetonitrile, DCM and Et2O. The compound was dried under vacuum at 40° C. to obtain 2-(4-methoxyphenylamino)-2-(thiophen-3-yl)acetic acid (540 mg, 77% yield).

reactant | thiophen-3-ylboronic acid | 2.65 mmol, 339 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | 2-oxoacetic acid hydrate | 2.65 mmol, 244 mg | O.O=CC(=O)O
reactant | 4-methoxyaniline | 2.65 mmol, 326 mg | COC1=CC=C(N)C=C1 | C7H9NO
product | 2-(4-methoxyphenylamino)-2-(thiophen-3-yl)acetic acid | 540 mg, 77% yield | COC1=CC=C(C=C1)NC(C(=O)O)C1=CSC=C1 | C13H13NO3S
